US08357693B2
To a mixture of tert-butyl 5-(6-(2-chloroethoxy)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.25 g, 0.40 mmole) in DMSO (2 mL) was added N,N-dimethyl-2-(methylamino)acetamide (0.232 g, 2.00 mmole) and the reaction was stirred at 85° C. for 4 h. The mixture was poured onto ice-water and the crude product was filtered. The product was then dissolved in a mixture of CH2Cl2 and CH3OH and the solution was concentrated in vacuo. The residue was purified via preparative TLC (SiO2, 10% CH2Cl2/CH3OH). To the product was added TFA (4 mL) and the reaction was stirred at RT for 2 h. The solution was concentrated in vacuo and the residue was triturated with ether, filtered and dried under vacuum to give 2-((2-(4-(1H-indazol-5-ylamino)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-6-yloxy)ethyl)(methyl)amino)-N,N-dimethylacetamide (0.178 g, 0.30 mmole, 74%). MS 602.6 (M+1). HPLC retention time 5.24 mins.

reactant | tert-butyl 5-(6-(2-chloroethoxy)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.40 mmole, 0.25 g | ClCCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)C1=CC=CC=C1)NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C35H32ClN5O4
reactant | N,N-dimethyl-2-(methylamino)acetamide | 2.00 mmole, 0.232 g | CN(C(CNC)=O)C | C5H12N2O
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
product | 2-((2-(4-(1H-indazol-5-ylamino)-2-[(3-phenyl)phenyl)-7-methoxyquinazolin-6-yloxy)ethyl)(methyl)amino)-N,N-dimethylacetamide | 0.30 mmole, 0.178 g, 74% | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC(=C(C=C12)OCCN(CC(=O)N(C)C)C)OC)C1=CC(=CC=C1)C1=CC=CC=C1 | C35H35N7O3
